US04709047
Allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-(2',2'-dimethyl-3'-hydroxypropyl)imide
204 g of allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid anhydride are reacted with 103 g of neopentanolamine for 4 hours at 120° C., and the product is isolated by distillation. 268 g (92.7% of theory) of a yellow oil with a refractive index n25D of 1.5190 and a viscosity of 6.21 Pa.s are obtained at a temperature in the range from 169° to 172° C. at 2.53 Pa.

reactant | allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid anhydride | 204 g | C(C=C)C12C3C(C(C=C1)C2)C(=O)OC3=O | C12H12O3
reactant | neopentanolamine | 103 g | CC(C)(CN)CO | C5H13NO
product | Allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-(2',2'-dimethyl-3'-hydroxypropyl)imide | CC(CN=C(O)C1C2(C=CC(C1C(=O)O)C2)CC=C)(CO)C | C17H25NO4
